* /home/tiw.rahul45/esim-2.3/library/subcircuitlibrary/rahul_inv/rahul_inv.cir

v1 net-_sc1-pad3_ gnd  dc 1.8
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
* u2  net-_sc1-pad2_ net-_sc1-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
