* Subcircuit rahul_inv
.subckt rahul_inv net-_sc1-pad2_ net-_sc1-pad1_ 
* /home/tiw.rahul45/esim-2.3/library/subcircuitlibrary/rahul_inv/rahul_inv.cir
v1 net-_sc1-pad3_ gnd  dc 1.8
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8
* Control Statements

.ends rahul_inv